********************************************************************************
*           Electronic circuit simulation file generated by gSpiceUI           *
*                         Version 1.1.00 (2015-04-29)                          *
********************************************************************************

* SPEED SENSE

* Component Definitions
D1 0 1 1N4148
D2 0 2 1N4148
D5 1 3 1N4148
D6 2 4 1N4148
R1 6 0 100k
R2 5 0 100k
R3 4 5 100k
R4 3 6 100k
R5 9 7 10k
R6 9 8 10k
R7 7 5 100k
R8 8 6 100k
V5 9 0 DC 5V
* Signal source (Vdyn 1 2 SIN ( 0 10 80 0 0 0))
Vdyn 1 2 GENERATOR(1) AC 10.00
X1 7 6 0 BCV47
X2 8 5 0 BCV47

* Sub-Circuit Definitions
.SUBCKT BCV47 1 2 3
*
* For use with Microsim PSPICE 
* please modify the AREA statement
* in this model:  e.g.
* SPICE: 
* Q2 1 22 3 BCV27 AREA = 5.1 
* PSPICE:
* Q2 1 22 3 BCV27 5.1 
* VTF, ITF, XTF are set to 
* default values 
*
Q1 1 2 33 BCV47 1 
Q2 1 33 3 BCV47 5.1 
.ENDS BCV47

* Model Definitions
.MODEL BCV47 NPN 
+ IS = 1.35E-14 
+ NF = 0.9889 
+ ISE = 4.441E-28 
+ NE = 1.03 
+ BF = 204 
+ IKF = 0.1 
+ VAF = 94 
+ NR = 1 
+ ISC = 1E-32 
+ NC = 2 
+ BR = 5 
+ IKR = 0.1 
+ VAR = 10 
+ RB = 45 
+ IRB = 7E-06 
+ RBM = 1 
+ RE = 0.25 
+ RC = 2 
+ XTB = 0 
+ EG = 1.11 
+ XTI = 3 
+ CJE = 1.445E-11 
+ VJE = 0.9 
+ MJE = 0.3635 
+ TF = 7E-10 
+ XTF = 1 
+ VTF = 1000 
+ ITF = 0.01 
+ PTF = 0 
+ CJC = 4.89E-12 
+ VJC = 0.6559 
+ MJC = 0.5115 
+ XCJC = 1 
+ TR = 1E-07 
+ CJS = 0 
+ VJS = 0.75 
+ MJS = 0.333 
+ FC = 0.999
.MODEL 1N4148 D 
+ IS = 4.352E-9 
+ N = 1.906 
+ BV = 110 
+ IBV = 0.0001 
+ RS = 0.6458 
+ CJO = 7.048E-13 
+ VJ = 0.869 
+ M = 0.03 
+ FC = 0.5 
+ TT = 3.48E-9 

* GNU-Cap Simulation Commands
.OPTIONS PHASE=RADIANS
.PRINT AC VDB(8)
.AC 1.00k 100.00k DE 10.00k TE 27.00 BASIC

.END
